US04613611
α-Oxo-4-(2-phenylethoxy)-benzeneacetaldehyde
A 27.7 g portion of 4'-phenethyloxy-acetophenone was dissolved in 200 ml of dimethylsulfoxide. A 39.2 ml portion of 48% hydrobromic acid was added in small portions (exothermic), then the mixture was heated at 58° C. for 17 hours. The mixture was poured into 500 ml of ice and water and the solid was collected, washed with water and dried, giving the desired product as a yellow solid, mp 44°-59° C.

reactant | 4'-phenethyloxy-acetophenone | C(CC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C16H16O2
reactant | hydrobromic acid | Br | BrH
reactant | water | O | H2O
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | α-Oxo-4-(2-phenylethoxy)-benzeneacetaldehyde | O=C(C=O)C1=CC=C(C=C1)OCCC1=CC=CC=C1 | C16H14O3
